US05677464
2-[(1R,2S)-2-(2,4-Difluorophenyl)-2,3-dihydroxy-1-methylpropyl]-4-[4-(2,2,3,3-tetrafluoropropoxy)phenyl]-3(2H,4H)-1,2,4-triazolone (8.26 g) was dissolved in 100 ml of ethyl acetate, to which 2.89 g of methanesulfonyl chloride and 2.54 g of triethylamine were added dropwise with ice cooling. After stirring at 0° C. for 30 minutes, the solution was washed with water (20 ml×2) and 20 ml of an aqueous solution of sodium chloride successively. The organic layer was dried over magnesium sulfate. The solvent was distilled off under reduced pressure to give 10 g of 2-[(1R,2S)-2-(2,4-difluorophenyl)-2-hydroxy-3-methanesulfonyloxy-1-methylpropyl]-4-[4-(2,2,3,3-tetrafluoropropoxy)phenyl]-3(2H,4H)-1,2,4-triazolone as a colorless oil.

reactant | 2-[(1R,2S)-2-(2,4-Difluorophenyl)-2,3-dihydroxy-1-methylpropyl]-4-[4-(2,2,3,3-tetrafluoropropoxy)phenyl]-3(2H,4H)-1,2,4-triazolone | 8.26 g | FC1=C(C=CC(=C1)F)[C@]([C@@H](C)N1N=CN(C1=O)C1=CC=C(C=C1)OCC(C(F)F)(F)F)(CO)O | C21H19F6N3O4
reactant | methanesulfonyl chloride | 2.89 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 2.54 g | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 2-[(1R,2S)-2-(2,4-difluorophenyl)-2-hydroxy-3-methanesulfonyloxy-1-methylpropyl]-4-[4-(2,2,3,3-tetrafluoropropoxy)phenyl]-3(2H,4H)-1,2,4-triazolone | 10 g | FC1=C(C=CC(=C1)F)[C@]([C@@H](C)N1N=CN(C1=O)C1=CC=C(C=C1)OCC(C(F)F)(F)F)(COS(=O)(=O)C)O | C22H21F6N3O6S
